US05808062
3-[(2-Chlorophenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (1.95 g, 10.14 mmol) and diethyl ester of [(2-chlorophenyl)thio]propanedioic acid (1.53 g, 5.07 mmol). m.p. 275°-280° C.; 1H NMR (400 MHz, DMSO-d6) δ 6.78 (s, 1H), 6. 89 (dd, 1H), 7. 08 (tt, 1H), 7. 19 (tt, 1H), 7.42 (dd, 1H), 7.56 (m, 3H), 8.06 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 10.14 mmol, 1.95 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(2-chlorophenyl)thio]propanedioic acid | 5.07 mmol, 1.53 g | ClC1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C9H7ClO4S
product | 3-[(2-Chlorophenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one | ClC1=C(C=CC=C1)SC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C17H11ClO3S
